US07432258B2
b) N-[1-(4′-amino-4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide
To a solution of 1,1-dimethylethyl {4′-[1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-4-biphenylyl}carbamate (0.64 g, 0.96 mmol) in dichloromethane (4 mL) was added trifluoroacetic acid (4 mL). The resultant mixture was stirred at room temperature for 1 h. The mixture was concentrated under reduced pressure to give 0.55 g (100%) of the title compound as tan solid MS (ES) m/e 569.4 [M+H]+

reactant | 1,1-dimethylethyl {4′-[1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-4-biphenylyl}carbamate | 0.96 mmol, 0.64 g | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)N(C(CN2CCOCC2)C2=CC=C(C=C2)C2=CC=C(C=C2)NC(OC(C)(C)C)=O)C)C1)Cl | C34H38Cl2N4O6
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-[1-(4′-amino-4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 0.55 g, 100% | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C | C29H30Cl2N4O4
